2192-04-22 07:27:00 Physician Resident Progress Note
Chief Complaint: 88F h/o metastatic breast cancer (malignant pleural
   effusion, pericardial effusion) on chemotherapy with acute on chronic
   dyspnea, tachypnea, tachycardia, hypotension.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2192-4-21**] 06:39 PM
 BLOOD CULTURED - At [**2192-4-22**] 12:00 AM
 BLOOD CULTURED - At [**2192-4-22**] 04:24 AM
 URINE CULTURE - At [**2192-4-22**] 04:24 AM
   -tx from OMED, tachycardia, dyspnea, hypotension.  Afib.  Got amio
   loaded.  Temporarily converted.
   -per discussion with son and pt, wishes to be DNI
   -Delerious overnight, got 2mg IV haldol, 5-10mg zydis.  Looked dry,
   hypotensive, no UOP with foley in place, was flushing well. C/o
   dysuria, removed foley.  IV hydration with 500NS, 500LR and
   maintenance.  CXR showed slight worsening of right sided effusion, left
   lung looked better. Oxygenating well. Not retaining.  Back in afib
   Allergies:
   Penicillins
   Drowsiness/Fati
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2192-4-21**] 08:06 PM
   Metronidazole - [**2192-4-22**] 12:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-21**] 08:10 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Agitated, c/o dyspnea, feeling uncomfortable, asking
   to use bathroom
   Flowsheet Data as of  [**2192-4-22**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 113 (93 - 159) bpm
   BP: 94/41(52) {74/26(38) - 125/73(77)} mmHg
   RR: 23 (21 - 39) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                  1,136 mL
                                                                  1,856 mL
   PO:
             TF:
   IVF:
                                                                  1,136 mL
                                                                  1,856 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     80 mL
   Urine:
                                                                     80 mL
   Bladder u/s 68cc this am
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,136 mL
                                                                  1,776 mL
   Respiratory support
   O2 Delivery Device: High flow neb 35% + 4L NC
   SpO2: 92%
   ABG: ///13/
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious, sitting up in
   bed. Agitated, delirious
   Eyes / Conjunctiva: PERRL, right eye opacification
   Head, Ears, Nose, Throat: Normocephalic, MM dry, JVP not elevated
   Cardiovascular: tachy, regular
   Peripheral Vascular: b/l LE distal pulses present
   Respiratory / Chest: Decreased BS right base with crackles.  Coarse
   rhonchi throughout lung fields.  Pleurex catheter right chest wall, dsg
   in place, not actively draining.  Portacath in place right chest.  Firm
   clavicular nodule on left.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis.  Trace ankle edema
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Delerious, agitated, responds to questions, not oriented to
   place/date
   Labs / Radiology
   276 K/uL
   10.8 g/dL
   214 mg/dL
   1.3 mg/dL
   13 mEq/L
   4.3 mEq/L
   26 mg/dL
   108 mEq/L
   137 mEq/L
   32.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2192-4-21**]  07:40 PM
                             [**2192-4-22**]  04:00 AM
   WBC
   8.0
   6.4
   Hct
   39.4
   32.9
   Plt
   330
   276
   Cr
   1.4
   1.3
   TropT
   0.04
   0.15
   Glucose
   133
   214
   Other labs: PT / PTT / INR:18.5/41.3/1.7, CK / CKMB /
   Troponin-T:56/9/0.15, Differential-Neuts:86.0 %, Band:3.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   [**4-21**] blood culture pending
   Assessment and Plan
   88F h/o metastatic breast cancer (malignant pleural effusion,
   pericardial effusion) on chemotherapy with acute on chronic dyspnea,
   tachypnea, tachycardia, hypotension.
   # Dyspnea, tachypnea: Acute worsening may be due to mucous plugging in
   patient with little pulmonary reserve (effusions, lobar collapse,
   extensive mets with lymphangitic spread), compounded by tachycardia
   leading to CHF [**1-28**] decreased diastolic filling and acute pulmonary
   edema. Pneumonia (post-obstructive, aspiration pneumonitis) also
   possible especially given immunosuppression from malignancy, although
   less likely. Recent negative LENIs and CTA chest make PE lower on
   differential.
   Current dyspnea and hypoxia likely due to enlarging malignant pleural
   effusion on CXR
   - High-flow O2, nebs prn
   - Attempt PPV if tolerates when MS improves
   - Treat atrial fibrillation per below
   - Continue levo/flagyl, add vanco for now for possible post-obstructive
   PNA
   - Blood, urine, sputum, pleurex catheter cultures
   -f/u IP recs, re ? daily pleurex catheter drainage, needs fairly urgent
   catheter drainage today, with possible continuous suction.
   # Atrial fibrillation: New onset in setting of acute illness, may be
   related to hypoxia and possible underlying pneumonia. Normal atria by
   recent echo.
   - Amiodarone given hypotension
   -Check TSH
   # Hypotension: Likely volume depletion in the setting of poor filling
   and CO due to tachycardia. Less likely sepsis, cardiogenic, or adrenal
   etiology. No evidence bleeding or tamponade (normal pulsus, JVP, and no
   effusion on recent echo).
   - Volume resuscitate with IVF bolus prn
   - Antibiotics per above
   - Cycle cardiac enzymes, increase in troponin likely rate related,
   continue to cycle.
   - Recheck Hct down in setting of hydration, likely dilutional no
   evidence active bleed, continue to monitor.
   #Altered mental status.  Delerious overnight.  Ddx includes 0.5mg
   lorazepam received earlier, hypoxia, dehydration, pain, urinary
   retention, infection, ICU delerium.  Foley d/c'd as pt c/o dysuria,
   pulling at catheter
   -avoid benzos
   -follow 02 sats
   -no UOP overnight despite boluses o/n, no retention on bladder scan.
   -continue abx
   -continue to bolus for low BP as 02 tolerates
   -consider morphine prn when BP improved for air hunger/sensation of
   dysuria
   # Esophageal stenosis: Last dilation failed, currently with limited PO
   intake [**1-28**] dysphagia.
   - Needs speech/swallow exam when more stable
   - Nutrition following
   -NPO for now in setting of AMS
   # Mandibular nodules: CT mandible negative for bony involvement;
   appears to be hematoma. Was receiving levofloxacin, metronidazole for
   ?dental abscess, but no fluctuance.
   - Dental consult pending; panorex imaging ordered STAT per dental
   consult. Consider ENT or oral maxillofacial surgery consult if
   appropriate after dental consult.
   # Skin erythema at catheter site: DDx malignant involvement (carcinoma
   erysiploides) vs irritation [**1-28**] tape.
   - Pending derm bx
   - [**4-20**]: Derm bx completed [**4-19**], pending path results.
   # Metastatic breast CA: Last navelbine [**2192-4-5**]. Holding chemotherpay in
   acute setting.
   - [**4-19**]: Post portacath placement.
   - [**4-20**]: Received navelbine as inpatient starting [**4-20**].
   # Hypothyroidism: Outpatient levothyroxine.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2192-4-21**] 06:39 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: ICU

2192-04-22 09:17:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Hypoxemia
   Atrial Fibrillation with Rapid Ventricular response
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2192-4-21**] 06:39 PM
 BLOOD CULTURED - At [**2192-4-22**] 12:00 AM
 BLOOD CULTURED - At [**2192-4-22**] 04:24 AM
 URINE CULTURE - At [**2192-4-22**] 04:24 AM
   Cardioversion with amiodarone with substantial improvement in
   hemodynamics and oxygenation
   Significant delirium overnight Rx. with Haldol
   Oliguria noted throughout admission but foley D/C'd with possible
   contribution to agitation and in that setting A-fib returned
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Drowsiness/Fati
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2192-4-21**] 08:06 PM
   Metronidazole - [**2192-4-22**] 07:58 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-21**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Genitourinary: Foley, Foley D/C'd with agitation
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Agitated
   Allergy / Immunology: Immunocompromised
   Signs or concerns for abuse : No
   Pain: [**12-28**] Minimal
   Flowsheet Data as of  [**2192-4-22**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 78 (78 - 159) bpm
   BP: 78/42(49) {74/26(38) - 125/73(77)} mmHg
   RR: 22 (21 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,136 mL
                                                                  3,129 mL
   PO:
             TF:
   IVF:
                                                                  1,136 mL
                                                                  3,129 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    143 mL
   Urine:
   143 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,136 mL
                                                                  2,986 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///13/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.8 g/dL
   276 K/uL
   214 mg/dL
   1.3 mg/dL
   13 mEq/L
   4.3 mEq/L
   26 mg/dL
   108 mEq/L
   137 mEq/L
   32.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2192-4-21**]  07:40 PM
                             [**2192-4-22**]  04:00 AM
   WBC
   8.0
   6.4
   Hct
   39.4
   32.9
   Plt
   330
   276
   Cr
   1.4
   1.3
   TropT
   0.04
   0.15
   Glucose
   133
   214
   Other labs: PT / PTT / INR:18.5/41.3/1.7, CK / CKMB /
   Troponin-T:56/9/0.15, Differential-Neuts:86.0 %, Band:3.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: 7.26/31/30-VBG
   Imaging: [**2192-4-22**]--Substantial increase in right sided effusion.
   Portacath and chest tube appear to be in place and unchanged
   Assessment and Plan
   88 yo female with a history of metastatic breast CA with associated
   effusions and drainage now presenting with hypotension and hypoxia to
   ICU with admission for sepsis in the setting of new onset atrial
   fibrillation and hypoxemia.  This may well represent evolution of
   infection or aspiration triggering acute worsening.
   1)Sepsis
[**Month (only) 60**] be pulmonary source but source not clear.  Will
   -Follow up cultures but WBC not elevated
   -Will maintain euvolemic today with bolus as needed.
   -Continue broad specturm ABX
   -The blood pressure insult here may well be exaggerated by the
   compromised cardiac output in the setting of diastolic dysfunction and
   atrial fibrillation with rapid ventricular response
   -IVF bolus is intervention of choice but are limited by evolution of
   effusion, hypoxemia and pulmonary edema.
   2)Atrial Fibrillation-Likely secondary to acute trigger in this
   setting
patient is on thyroid replacement therapy and evaluation of
   adequacy would be reasaonable.
   -Amiodarone
   -Follow up TSH when stable
   3)Hypoxemia-Severe compromise of the right lung is seen by the presence
   of significant effusion in the setting of hydration required to
   stabilize blood pressure in the setting of infectious insult seen
   above.
   -Address pleural effusion with drainage
   -Supplemental oxygen as needed.
   4)Acute Renal Failure-Oliguric renal failure seen with possible
   contribution from pre-renal source which has been persistent overnight
   5)Pleural Effusion-
   -Will pursue drainage today with sampling for culture desired.
   6)Altered mental status
likely multifactorial and will avoid
   benzodiazepine medications.  Hope for improvement with stabilization of
   medical insult and appropriate medications.
   7)Breast Cancer
Hold on chemotherapeutic intervention at this time and
   will discuss with oncology planning for treatment in the setting of
   acute illness.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines: Portacath in place
   Indwelling Port (PortaCath) - [**2192-4-21**] 06:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Plan discussed with son who has significant
   anxiety and concerns about clinical worsening.
   Code status: DNR/DNI
   Disposition :ICU
   Total time spent: 45 minutes

2192-04-23 09:34:00 Physician Attending Progress Note
Chief Complaint: respiratory distress, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pleurex --> water seal
   Afib with RVR --> amio
   Hypotension requiring neosynephrine
   Family requested palliative care consultation for help in possibly
   getting her home
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Drowsiness/Fati
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2192-4-21**] 08:06 PM
   Metronidazole - [**2192-4-23**] 08:16 AM
   Infusions:
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2192-4-23**] 06:30 AM
   Other medications:
   SQH, vanco, MVI, B12, Flagyl, levoflox, amio, levothyroxine,
   phenylephrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-23**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.2
   HR: 85 (75 - 131) bpm
   BP: 116/32(51) {76/26(39) - 116/64(67)} mmHg
   RR: 27 (17 - 36) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                  4,915 mL
                                                                    333 mL
   PO:
             TF:
   IVF:
                                                                  4,915 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                    143 mL
                                                                      0 mL
   Urine:
                                                                    143 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,772 mL
                                                                    333 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 89%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : ), course breath sounds
   throughout
   Abdominal: Soft, Non-tender
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   276 K/uL
   214 mg/dL
   1.3 mg/dL
   13 mEq/L
   4.3 mEq/L
   26 mg/dL
   108 mEq/L
   137 mEq/L
   32.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2192-4-21**]  07:40 PM
                             [**2192-4-22**]  04:00 AM
   WBC
   8.0
   6.4
   Hct
   39.4
   32.9
   Plt
   330
   276
   Cr
   1.4
   1.3
   TropT
   0.04
   0.15
   Glucose
   133
   214
   Other labs: PT / PTT / INR:18.5/41.3/1.7, CK / CKMB /
   Troponin-T:56/9/0.15, Differential-Neuts:86.0 %, Band:3.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   88-year-old woman with metastatic breast cancer now with respiratory
   distress and hypotension.
   Respiratory distress
   - symptomatically improved a bit now that she is back in sinues
   Atrial fibrillation
   -          amiodarone
   -          has recent echo without evidence of pericardial disease
   Pleural effusion
   -          repeat CXR (after Pleurex drainage)
   Hypotension
   -          appears to have been mostly AFib-related
   -          we will wean neosynephrine as tolerated today
   -          will continue amiodarone for now (she cannot take POs) -->
   consult pharmacy for dosing
   -          continue broad-spectrum antibiotics at present
   Hypothyroidism
   -          may be complicated by amio and will need follow-up
   Oliguria
   -          follow Cr for now
   -          consider bladder scan or straight cath depending on goals of
   care
   Breast Cancer
   -          no acute therapy
   Esophageal issues
   -          preventing POs at present
   Communication
   -          Patient discussed on interdisciplinary rounds; family
   meeting held by team yesterday.  Family requested palliative care
   team
s assistance with trying to get her home.  We will ask oncology
   and palliative care to consult and discuss with pt's PCP [**First Name4 (NamePattern1) 391**] [**Last Name (NamePattern1) 705**].
   DNR/DNI
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2192-4-21**] 06:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:  n/a
   Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 min

2192-04-23 14:41:00 Physician Resident Progress Note
Chief Complaint: 88F with a PMH of metastatic breast cancer c/b
   recurrent malignant pleural effusions s/p pleur-X catheter insertion
   now with acute respiratory distress.
   24 Hour Events:
   -Patient made comfort-measures only per discussion with family and
   primary oncology team
   Allergies:
   Penicillins
   Drowsiness/Fati
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2192-4-21**] 08:06 PM
   Metronidazole - [**2192-4-23**] 08:16 AM
   Levofloxacin - [**2192-4-23**] 09:45 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2192-4-23**] 12:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Patient states her breathing has improved with the
   nebulizers
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2192-4-23**] 02:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 84 (78 - 131) bpm
   BP: 125/33(86) {76/30(45) - 125/74(86)} mmHg
   RR: 26 (17 - 36) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,915 mL
                                                                    655 mL
   PO:
             TF:
   IVF:
                                                                  4,915 mL
                                                                    655 mL
   Blood products:
   Total out:
                                                                    143 mL
                                                                      0 mL
   Urine:
                                                                    143 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,772 mL
                                                                    655 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 88%
   ABG: ////
   Physical Examination
   General Appearance: Thin, In mild respiratory distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Regular rhythm
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Bilateral 3+ pitting edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   276 K/uL
   10.8 g/dL
   214 mg/dL
   1.3 mg/dL
   13 mEq/L
   4.3 mEq/L
   26 mg/dL
   108 mEq/L
   137 mEq/L
   32.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2192-4-21**]  07:40 PM
                             [**2192-4-22**]  04:00 AM
   WBC
   8.0
   6.4
   Hct
   39.4
   32.9
   Plt
   330
   276
   Cr
   1.4
   1.3
   TropT
   0.04
   0.15
   Glucose
   133
   214
   Other labs: PT / PTT / INR:18.5/41.3/1.7, CK / CKMB /
   Troponin-T:56/9/0.15, Differential-Neuts:86.0 %, Band:3.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   88F with a PMH of metastatic breast cancer c/b recurrent malignant
   pleural effusions s/p pleur-X catheter insertion now with acute
   respiratory distress.
   # Respiratory distress:  Likely worsening of underlying recurrent
   malignant effusions/ lymphangitic spread of cancer.   The decision was
   made to make the patient CMO, we will discontinue antibiotics for
   possible post-obstructive pneumonia.
   -          High-flow O2, nebs prn
   -          -Morphine prn air hunger
   # Metastatic breast CA: Last navelbine [**2192-4-5**].  CMO as per discussion
   above.
   -continue comfort measures
   # Hypothyroidism: Outpatient levothyroxine.
   ICU Care
   Nutrition:  regular diet as tolerated
   Glycemic Control:  Not needed
   Lines:
   Indwelling Port (PortaCath) - [**2192-4-21**] 06:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI/ CMO
   Disposition: CMO